US08217065B2
{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-quinolin-2-yl-amine
Dissolve 2-amino-quinoline (88 mg, 0.607 mmol) in a biphasic solution of CHCl3 (15 mL) and saturated NaHCO3 (15 mL). Add thiophosgene (47 uL, 0.607 mmol) to the organic phase and stir the reaction vigorously for 3 hr. Add 2-(2,6-dichloro -phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (150 mg, 0.467 mmol) and stir overnight. Filter the reaction. Extract the aqueous phase with CHCl3 (20 mL). Concentrate the combined organics and combine with the solid. Evaporate the solvent. Add EDCI (96 mg, 0.500 mmol) and DMF (3 mL). Heat to 80° C. for 1 hr. Upon cooling to room temp dilute the reaction with EtOAc (75 mL) and extract with water (15 mL). Dry the organic phase over Na2SO4 and concentrate. Purify the concentrate by reverse phase HPLC (35-65% ACN/H2O+5 mM NH4OH) to afford the title compound as a yellow solid: 1H NMR (400 MHz, MeOD) δ ppm 7.19 (br. s., 1 H) 7.45 (m, 1 H) 7.55-7.64 (m, 3 H) 7.69-7.75 (m, 2 H) 7.82 (d, J=7.83 Hz, 2 H) 8.05 (dd, J=8.46, 1.52 Hz, 1 H) 8.16 (d, J=9.35 Hz, 1 H) 8.32 (br. s., 1 H); MS m/z=473.0 (M+1).

reactant | 2-amino-quinoline | 0.607 mmol, 88 mg | NC1=NC2=CC=CC=C2C=C1 | C9H8N2
reactant | thiophosgene | 0.607 mmol, 47 uL | C(=S)(Cl)Cl | CCl2S
reactant | 2-(2,6-dichloro -phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.467 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | EDCI | 0.500 mmol, 96 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | {5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-quinolin-2-yl-amine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C2=NN=C(O2)NC2=NC1=CC=CC=C1C=C2 | C24H14Cl2N6O
